US07615642B2
Step B: N-ethyl-1H-pyrrole-3-carboxamide
DIPEA (10.4 mL, 7.8 g, 60 mmol) was added to a solution of 1H-pyrrole-3-carboxylic acid (2.2 g, 20 mmol) and ethylamine hydrochloride (2.5 g, 30 mmol) in DMF (50 mL) at 0° C. Stirring for 20 min, HATU (9.9 g, 26 mmol) was added at 0° C. The reaction mixture was stirred overnight at room temperature, diluted with EtOAc (300 mL), washed with H2O (3×30 mL) and dried over Na2SO4. The crude product was purified by MPLC using EtOAc on silica gel to give 4.0 mL of a solution of the desired product in DMF. Small amount of the desired product was purified again by MPLC using EtOAc on silica gel for NMR. 1H NMR (400 MHz, CHLOROFORM-D) δ 1.22 (t, J=7.23 Hz, 3 H), 3.39-3.51 (m, 2 H), 5.84 (s, 1 H), 6.37-6.42 (m, 1 H), 6.77 (dd, J=4.98, 2.44 Hz, 1 H), 7.30-7.39 (m, 1 H), 8.85 (t, 1 H).

reactant | DIPEA | 60 mmol, 10.4 mL, 7.8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-pyrrole-3-carboxylic acid | 20 mmol, 2.2 g | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | ethylamine hydrochloride | 30 mmol, 2.5 g | Cl.C(C)N
reactant | HATU | 26 mmol, 9.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | N-ethyl-1H-pyrrole-3-carboxamide | C(C)NC(=O)C1=CNC=C1 | C7H10N2O
